US05047554
5-Chloro-3-(4-methoxy-2-thenoyl)-2-oxindole-1-carboxamide
The title compound was prepared according to the procedure of Example 32. A 1.30 g (8.22 mmoles) sample of 4-methoxy-2-thiophenecarboxylic acid (prepared according to Gronowitz, S., Arkiv. for Kemi. 12:239 (1958)) was converted to 1.19 g of pure acid chloride (b.p. 58°-60° C., 0.03 mm) with 10 ml of thionyl chloride. The acid chloride was coupled to 1.18 g (5.61 mmoles) of 5-chloro-2-oxindole-1-carboxamide in the presence of 1.73 g (14.15 mmoles) 4-(N,N-dimethylamino)pyridine to give 1.88 g of crude product on acidic workup. Recrystallization gave 1.39 g (3.96 mmoles, 71% yield) of pure 5-chloro-3-(4-methoxy-2-thenoyl)-2-oxindole-1-carboxamide as a yellow solid, m.p. 221°-223° C. (acetic acid).

reactant | 4-methoxy-2-thiophenecarboxylic acid | COC=1C=C(SC1)C(=O)O | C6H6O3S
reactant | 5-chloro-2-oxindole-1-carboxamide | 5.61 mmoles, 1.18 g | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
catalyst | 4-(N,N-dimethylamino)pyridine | 14.15 mmoles, 1.73 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloro-3-(4-methoxy-2-thenoyl)-2-oxindole-1-carboxamide | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C1=CC(=CS1)OC)=O | C15H11ClN2O4S
